US05041554
1-(2-Furanylmethyl)-1H-Pyrrole-2-Carboxylic Acid
1-Furfurylpyrrole (2.3 g, 15.6 mMol), 15 ml of trifluoroacetic anhydride (22.35 g, 106 mmol), 50 ml of nitromethane and 25 ml anhydrous diethylether were combined in a 100 ml round bottom flask. The mixture was stirred overnight under positive argon. The reaction was heated and the excess solvents distilled off. The mixture was evaporated to dryness under reduced pressure to give 3.9 g of a dark oil. The oil was distilled in a Kugel-rohr apparatus. The fraction collected at 80° C. to 90° C. at 0.2 mm Hg pressure gave 3.0 g of the colorless oil. 1-(2-furanylmethyl)-2-trifluoroacetyl-1H-pyrrole. This oil was combined with 50 ml ethylalcohol in a 100 ml round bottom flask equipped with a reflux condenser. The mixture was heated to reflux. Sodium hydroxide, 3.0 g in 15 ml of water, was added, and the reaction mixture was refluxed for 3 hours. The ethanol was distilled off and 50 ml of water was added. The mixture was cooled and acidified by addition of 5.0 g malonic acid. A precipitate formed which was collected by filtration. The solid precipitate was recrystallized from acetonitrile to give the title compound a white powder, mp =117° C. to 118° C., infrared spectrum absorption at 3400 cm-1, 1675 cm-1, 1530 cm-1, 1440 cm-1, 750 cm-1.

reactant | 1-(2-furanylmethyl)-2-trifluoroacetyl-1H-pyrrole | O1C(=CC=C1)CN1C(=CC=C1)C(C(F)(F)F)=O | C11H8F3NO2
reactant | ethylalcohol | 50 ml | C(C)O | C2H6O
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 1-(2-Furanylmethyl)-1H-Pyrrole-2-Carboxylic Acid | O1C(=CC=C1)CN1C(=CC=C1)C(=O)O | C10H9NO3
